US06323254B1
Example 1—Precursor Containing Abietic Acid
5 10.26 kg of Portuguese balsam resin WW 4.02 kg of trimethylolpropane and 0.007 kg of toluhydroquinone were weighed into a 15 liter stirred tank equipped with a distillation attachment and nitrogen (30 to 40 l/h) was passed over the mixture for 30 minutes. The stream of nitrogen was reduced to 8 to 10 l/h and the mixture was heated to 120 to 130° C. When the resin had melted, the stirrer Incas switched on. The reaction mixture was subsequently heated to 140° C. over a period of 2 h, and then maintain the following temperatures: 1 h at 140° C., 1 h at 150° C. 1 h at 160° C., 1 h at 170° C., 1 h at 180° C., 1 h at 200° C. and I h at 220° C. The stream of nitrogen was then increased to 20 l/h and the reaction mixture was heated to 230° C. and stirred at this temperature until the acid number was less than 10 mg KOH per g substance.

reactant | trimethylolpropane | 4.02 kg | C(O)C(CC)(CO)CO | C6H14O3
reactant | toluhydroquinone | 0.007 kg | C=1(C(C)=CC(O)=CC1)O | C7H8O2
reactant | KOH | less than 10 mg | [OH-].[K+]
product | Abietic Acid | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
